US09108939B2
A: 1-Chloro-4-fluoro-2-methyl-5-nitrobenzene
To concentrated sulfuric acid (23.81 g), cooled to 0° C., under a nitrogen atmosphere, was added concentrated nitric acid (27.5 g) dropwise. 2-Chloro-5-fluorotoluene (9 g) was added dropwise and the reaction was stirred for 2 hours. The reaction was poured into ice and extracted with ethyl acetate. The organic phase was washed with aqueous sodium hydrogen carbonate, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica column chromatography [eluting with ethyl acetate/heptane (1:2)] to yield the title compound (9.4 g).

reactant | sulfuric acid | 23.81 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 27.5 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-Chloro-5-fluorotoluene | 9 g | ClC1=C(C=C(C=C1)F)C | C7H6ClF
product | 1-Chloro-4-fluoro-2-methyl-5-nitrobenzene | 9.4 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5ClFNO2
